US05814580
To 850 ml of ethanol were added 188 g of aminoguanidine hydrochloride and 170 g of 2,4-pentadione and the mixture was heated with stirring for 3 hrs. under reflux. The precipitated crystals were filtered, sufficiently washed with ethanol and dried to obtain 1-amidino-3,5-dimethylpyrazole hydrochloride of 210 g. Next, 60 g of potassium hydroxide was dissolved in water of 120 g and 1-amidino-3,5-dimethylpyrazole hydrochloride of 61.1 g was added thereto withcooling with water and stirred further for 1 hr. Chloroform of 200 ml was added to the solution for extraction. A chloroform layer was separated, washed with water and dried with anhydrous sodium sulfate, thereafter, chloroform was removed to obtain 1-amidino-3,5-dimethylpyrazole of 46.0 g.

reactant | potassium hydroxide | 60 g | [OH-].[K+]
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | 1-amidino-3,5-dimethylpyrazole hydrochloride | Cl.C(N)(=N)N1N=C(C=C1C)C
solvent | water | O | H2O
product | 1-amidino-3,5-dimethylpyrazole | C(N)(=N)N1N=C(C=C1C)C | C6H10N4
